US07528163B2
N-Butyl-2-[3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-propylacetamide
Weigh 29.0 mg [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid, 23.0 mg HOBt, and 38.3 mg EDC into a 13×100 mm screw cap tube. Add 17.3 mg N-propylbutylamine followed by 1 mL DMF and 45.2 mg DIEA in that order. The mixture was stirred at 45° C. for two hours and purified by RP-HPLC using 65-100% MeCN gradient. The pure product fractions were pooled and lyophilized to give the title compound as white solid. LC-MS: 4.20 min. (m/Z=388.3, 410.3).

reactant | [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid | 29.0 mg | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O)(C)C | C15H18N2O4
reactant | HOBt | 23.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-propylbutylamine | 17.3 mg | C(CC)NCCCC | C7H17N
reactant | DIEA | 45.2 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 38.3 mg
product | N-Butyl-2-[3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-propylacetamide | C(CCC)N(C(CN1N=C(C2=CC=C(C=C12)OC)C(C(C)(C)C)=O)=O)CCC | C22H33N3O3
